* C:\electronics\LTspiceIV\my_circuits\Base bias test.asc
Q1 N002 N006 0 0 BC549C
R1 N001 N002 500
V1 N001 0 27
R4 N002 N006 200k
C1 N006 N005 10µ
V2 N005 0 SINE(0 40mV 1000) AC 50mv
Q4 N001 N003 N004 0 2N3055
R11 N007 0 8
Q5 0 N008 N004 0 2N2907S
C20 N007 N004 1000µ
R5 N008 0 1K
R7 N003 N008 177
Q2 N001 N002 N003 0 MJE12007
C2-cleans-noise-in-input N006 0 1000p
.model NPN NPN
.model PNP PNP
.lib C:\electronics\LTspiceIV\lib\cmp\standard.bjt
.tran 0 200ms 1ms 1ms
.backanno
.end
