* F:\electronics\LTspiceIV\Common Emitter with 2N3904.asc
Q1 N003 N006 N009 0 2N3904
R1 N002 N003 150
V1 N002 0 12
R4 N002 N006 1K
R3 N006 0 1K
R2 N009 0 150
C3 N009 0 1000µ
V2 N005 0 SINE(0 10mV 1000)
Q3 N002 N004 N007 0 2N3055
R5 N007 0 10
C1 N006 N005 470µ
R6 N002 N004 5.5K
C2 N004 N003 470µ
C4 N008 N007 470µ
R8 N004 0 5.5K
R9 N008 0 8
.model NPN NPN
.model PNP PNP
.lib F:\ELECTR~1\LTSPIC~1\lib\cmp\standard.bjt
.tran 0 1s 0 1ms
.include 2N3904.txt
.backanno
.end
