* C:\electronics\LTspiceIV\Dual Common Emitter with 2N3904 and common collector Tip122.asc
Q1 N003 N007 N011 0 2N3904
R1 N001 N003 500
V1 N001 0 12
R4 N001 N007 1K
R3 N007 0 250
R2 N011 0 150
C3 N011 0 100µ
V2 N006 0 SINE(0 15mV 1000)
C1 N007 N006 470µ
R6 N009 0 1500
R7 N010 0 8
C2 N010 N009 2200µ
R5 N001 N002 1000
R8 N008 0 150
Q2 N002 N003 N008 0 TIP41C
Q3 N001 N002 N009 0 TIP41C
C4 N008 0 100µ
.model NPN NPN
.model PNP PNP
.lib C:\ELECTR~1\LTSPIC~1\lib\cmp\standard.bjt
.tran 0 1s 0 1ms
.include 2N3904.txt
.backanno
.end
